### PR TITLE
[Merged by Bors] - feat(Topology/KrullDimension): add subspace dimension inequality

### PR DESCRIPTION
**Pull request by a-dangelo**
This PR proves that subspaces have Krull dimension at most that of the ambient space: dim(Y) ≤ dim(X) for Y ⊆ X (theorem topologicalKrullDim_subspace_le).

Supporting results about IrreducibleCloseds were refactored and moved from KrullDimension.lean to Closeds.lean for better modularity.
Note: Some code/documentation generated with AI assistance (Gemini).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/KrullDimension.lean [hunk 1]
```diff
@@ -62,3 +74,123 @@ theorem IsHomeomorph.topologicalKrullDim_eq (f : X → Y) (h : IsHomeomorph f) :
...
+/-! ### Maps between irreducible closed sets -/
+
+/-- The canonical map from irreducible closed sets of a subspace `Y` to irreducible
+closed sets of the ambient space `X`, defined by taking the closure of the image
+under the inclusion map. This map is crucial for comparing Krull dimensions. -/
+def mapIrreducibleClosed (Y : Set X) (c : IrreducibleCloseds Y) : IrreducibleCloseds X where
+  carrier := closure (Subtype.val '' c.carrier)
+  is_irreducible' := c.is_irreducible'.image Subtype.val
+    (continuous_subtype_val.continuousOn) |>.closure
+  is_closed' := isClosed_closure
```
Comment (kim-em) [inline Mathlib/Topology/KrullDimension.lean]: This and the next should be in an earlier file. Actually, IrreducibleCloseds.map should be moved earlier itself.

File: Mathlib/Topology/KrullDimension.lean [hunk 2]
```diff
@@ -62,3 +74,123 @@ theorem IsHomeomorph.topologicalKrullDim_eq (f : X → Y) (h : IsHomeomorph f) :
...
+  ext x
+  have h_closures_eq : closure (Subtype.val '' A.carrier) =
+      closure (Subtype.val '' B.carrier) :=
+    congrArg IrreducibleCloseds.carrier h_images_eq
+  constructor
+  · -- Forward direction: x ∈ A → x ∈ B
+    intro hx_in_A
+    change x ∈ B.carrier
+    rw [← B.is_closed'.closure_eq]
+    -- Use the mathlib lemma for embeddings
```
Comment (kim-em) [inline Mathlib/Topology/KrullDimension.lean]: That sounds like the sort of thing 🤖 would say. If an AI assisted here, could you please write that in the PR description? If not, such comments are not helpful and should be removed.

File: Mathlib/Topology/KrullDimension.lean [hunk 3]
```diff
@@ -62,3 +74,123 @@ theorem IsHomeomorph.topologicalKrullDim_eq (f : X → Y) (h : IsHomeomorph f) :
...
+
+/-! ### Partial order structure on irreducible closed sets -/
+
+instance : PartialOrder (IrreducibleCloseds X) where
+  le s t := s.carrier ⊆ t.carrier
+  le_refl s := Set.Subset.refl _
+  le_trans s t u hst htu := Set.Subset.trans hst htu
+  le_antisymm s t hst hts := by
+    apply IrreducibleCloseds.ext
+    exact Set.Subset.antisymm hst hts
```
Comment (kim-em) [inline Mathlib/Topology/KrullDimension.lean]: Again, all this stuff not actually about Krull dimension needs to be in earlier files.

Comment (a-dangelo) [reply Mathlib/Topology/KrullDimension.lean]: Sorry, I will move it to the part on IrreducibleCloseds.
**Update**
@kim-em I forgot to say it before: thanks for the feedback btw! I've reorganized the code as requested:

- All `IrreducibleCloseds` extensions now live in `Topology/Sets/Closeds.lean` 
- Only dimension theory remains in `KrullDimension.lean`
- Removed AI-generated comments (sorry about those!)

The move of `IrreducibleCloseds.map` (that sadly became just 'map' in Topology/Sets/Closeds.lean since I couldn't repeat the "IrreducibleCloseds." twice) might affect other files - waiting for CI to identify any needed import fixes. Ready for another review when CI passes! 
If you want me to rename that with something more meaningful please let me know.

File: Mathlib/Topology/KrullDimension.lean (hunk 1 above)
Comment (a-dangelo) [reply Mathlib/Topology/KrullDimension.lean]: Completely agree, sorry for that. Where should I move them? in Irreducible.lean?

File: Mathlib/Topology/KrullDimension.lean (hunk 2 above)
Comment (a-dangelo) [reply Mathlib/Topology/KrullDimension.lean]: Yes, sorry I've used Gemini and I also refactored a bit without carefully checking everything and this slipped to me.

**Comment by fpvandoorn** [comment]
If you think you have addressed all the review comments, please remove the label `awaiting-author` by writing a comment with the text `-awaiting-author`.

**Comment by a-dangelo** [comment]
-awaiting-author

File: Mathlib/Topology/KrullDimension.lean [hunk 4]
```diff
@@ -62,3 +56,24 @@ theorem IsHomeomorph.topologicalKrullDim_eq (f : X → Y) (h : IsHomeomorph f) :
     IsClosedEmbedding.topologicalKrullDim_le (h.homeomorph f).symm
     (h.homeomorph f).symm.isClosedEmbedding
   le_antisymm fwd bwd
+
+
+
+
+
+
```
Comment (jcommelin) [inline Mathlib/Topology/KrullDimension.lean]:
```suggestion
```

File: Mathlib/Topology/Sets/Closeds.lean [hunk 5]
```diff
@@ -426,6 +427,116 @@ order isomorphism. -/
 def orderIsoSubtype' : IrreducibleCloseds α ≃o { x : Set α // IsClosed x ∧ IsIrreducible x } :=
   equivSubtype'.toOrderIso (fun _ _ h ↦ h) (fun _ _ h ↦ h)
 
+/-! ### Partial order structure on irreducible closed sets -/
+
+instance : PartialOrder (IrreducibleCloseds α) where
+  le s t := s.carrier ⊆ t.carrier
+  le_refl s := Set.Subset.refl _
+  le_trans s t u hst htu := Set.Subset.trans hst htu
+  le_antisymm s t hst hts := IrreducibleCloseds.ext (Set.Subset.antisymm hst hts)
```
Comment (erdOne) [inline Mathlib/Topology/Sets/Closeds.lean]: This is `by infer_instance`.

File: Mathlib/Topology/Sets/Closeds.lean [hunk 6]
```diff
@@ -426,6 +427,116 @@ order isomorphism. -/
...
+
+/-- The partial order on `IrreducibleCloseds α` is given by subset inclusion
+of the underlying sets. -/
+lemma le_iff_subset {s t : IrreducibleCloseds α} :
+    s ≤ t ↔ s.carrier ⊆ t.carrier := by rfl
```
Comment (erdOne) [inline Mathlib/Topology/Sets/Closeds.lean]: This is `SetLike.coe_subset_coe`

File: Mathlib/Topology/Sets/Closeds.lean [hunk 7]
```diff
@@ -426,6 +427,116 @@ order isomorphism. -/
...
+
+/-- The strict partial order on `IrreducibleCloseds α` corresponds to strict
+subset inclusion of the underlying sets. -/
+lemma lt_iff_subset {s t : IrreducibleCloseds α} :
+    s < t ↔ s.carrier ⊂ t.carrier := by
```
Comment (erdOne) [inline Mathlib/Topology/Sets/Closeds.lean]: This is `SetLike.coe_ssubset_coe`

File: Mathlib/Topology/Sets/Closeds.lean [hunk 8]
```diff
@@ -426,6 +427,116 @@ order isomorphism. -/
...
+  fun ⦃_ _⦄ UltV ↦ hf.injective.image_strictMono UltV
+
+/-- The map on irreducible closed sets induced by an embedding `f`.
+This is a generalization of `IrreducibleCloseds.map` for embeddings that are not necessarily
+closed. We take the closure of the image to ensure the result is a closed set. -/
+def mapOfEmbedding {f : Y → α} (hf : Topology.IsEmbedding f)
+    (c : IrreducibleCloseds Y) : IrreducibleCloseds α where
+  carrier := closure (f '' c.carrier)
+  is_irreducible' := c.is_irreducible'.image f (hf.continuous.continuousOn) |>.closure
+  is_closed' := isClosed_closure
```
Comment (erdOne) [inline Mathlib/Topology/Sets/Closeds.lean]: This just works for all continuous maps right? I think we should just always use this and not have `map`.

**Comment by a-dangelo** [comment]
-awaiting-author

File: Mathlib/Topology/Sets/Closeds.lean [hunk 9]
```diff
@@ -430,6 +433,68 @@ order isomorphism. -/
...
+def map {f : β → α} (hf : Continuous f)
+    (c : IrreducibleCloseds β) : IrreducibleCloseds α where
+  carrier := closure (f '' c.carrier)
+  isIrreducible' := c.isIrreducible.image f hf.continuousOn |>.closure
+  isClosed' := isClosed_closure
+
+/-- The map `IrreducibleCloseds.map` is injective when `f` is an embedding.
+This relies on the property of embeddings that a closed set in the domain is the preimage
+of the closure of its image. -/
+lemma map_injective_of_embedding {f : β → α} (hf : Topology.IsEmbedding f) :
```
Comment (erdOne) [inline Mathlib/Topology/Sets/Closeds.lean]:
```suggestion
lemma map_injective_of_isEmbedding {f : β → α} (hf : Topology.IsEmbedding f) :
```

File: Mathlib/Topology/Sets/Closeds.lean [hunk 10]
```diff
@@ -430,6 +433,68 @@ order isomorphism. -/
...
+    exact subset_closure (mem_image_of_mem f hx_in_A),
+  fun hx_in_B => by
+    rw [← A.isClosed.closure_eq, hf.closure_eq_preimage_closure_image]
+    simp_rw [mem_preimage]
+    change f x ∈ closure (f '' A.carrier)
+    rw [h_closures_eq]
+    exact subset_closure (mem_image_of_mem f hx_in_B)⟩
+
+/-- The map `IrreducibleCloseds.map` is strictly monotone when `f` is an embedding. -/
+lemma map_strictMono_of_embedding {f : β → α} (hf : Topology.IsEmbedding f) :
```
Comment (erdOne) [inline Mathlib/Topology/Sets/Closeds.lean]:
```suggestion
lemma map_strictMono_of_isEmbedding {f : β → α} (hf : Topology.IsEmbedding f) :
```

File: Mathlib/Topology/Sets/Closeds.lean [hunk 11]
```diff
@@ -430,6 +433,68 @@ order isomorphism. -/
...
+
+/-- The map `mapIrreducibleClosed` is injective, as it's induced by an embedding. -/
+lemma mapIrreducibleClosed_injective (β : Set α) :
+    Function.Injective (mapIrreducibleClosed β) :=
+  map_injective_of_embedding Topology.IsEmbedding.subtypeVal
+
+/-- The canonical map `mapIrreducibleClosed` is strictly monotone. -/
+lemma mapIrreducibleClosed_strictMono (β : Set α) :
+    StrictMono (mapIrreducibleClosed β) :=
+  map_strictMono_of_embedding Topology.IsEmbedding.subtypeVal
```
Comment (erdOne) [inline Mathlib/Topology/Sets/Closeds.lean]: I am less sure if we want these. I think `map continuous_subtype_val` is good enough?

File: Mathlib/Topology/Sets/Closeds.lean [hunk 12]
```diff
@@ -430,6 +433,68 @@ order isomorphism. -/
...
+
+instance : PartialOrder (IrreducibleCloseds α) := inferInstance
+
+/-- The map on irreducible closed sets induced by a continuous map `f`. -/
+def map {f : β → α} (hf : Continuous f)
+    (c : IrreducibleCloseds β) : IrreducibleCloseds α where
+  carrier := closure (f '' c.carrier)
+  isIrreducible' := c.isIrreducible.image f hf.continuousOn |>.closure
+  isClosed' := isClosed_closure
+
```
Comment (erdOne) [inline Mathlib/Topology/Sets/Closeds.lean:442]: Can you add a lemma saying `(map hf s : Set _) = closure (f '' s)`, which should be called `coe_map`? Thanks.

File: Mathlib/Topology/Sets/Closeds.lean [hunk 13]
```diff
@@ -430,6 +433,68 @@ order isomorphism. -/
 def orderIsoSubtype' : IrreducibleCloseds α ≃o { x : Set α // IsClosed x ∧ IsIrreducible x } :=
   equivSubtype'.toOrderIso (fun _ _ h ↦ h) (fun _ _ h ↦ h)
 
+/-! ### Partial order structure on irreducible closed sets and maps thereof-/
+
+instance : PartialOrder (IrreducibleCloseds α) := inferInstance
+
+/-- The map on irreducible closed sets induced by a continuous map `f`. -/
+def map {f : β → α} (hf : Continuous f)
```
Comment (erdOne) [inline Mathlib/Topology/Sets/Closeds.lean]: I think `f` should be explicit here. Yes it is inferable from `hf` but in the infoview it would display as `map ... s` and making `f` explicit turns it into `map f ... s` and is more readable.

File: Mathlib/Topology/Sets/Closeds.lean [hunk 14]
```diff
@@ -430,6 +433,68 @@ order isomorphism. -/
...
+    (c : IrreducibleCloseds β) : IrreducibleCloseds α where
+  carrier := closure (f '' c.carrier)
```
Comment (erdOne) [inline Mathlib/Topology/Sets/Closeds.lean]:
```suggestion
  carrier := closure (f '' c)
```
Not tested, but should work because there should be a coercion instance.

File: Mathlib/Topology/Sets/Closeds.lean (hunk 11 above)
Comment (a-dangelo) [reply Mathlib/Topology/Sets/Closeds.lean]: yeah, I agree. I've removed them.

**Comment by erdOne** [comment]
I think you have messed up something. Can you try merging master again?

File: Mathlib/Topology/KrullDimension.lean [hunk 15]
```diff
@@ -26,32 +36,13 @@ noncomputable def topologicalKrullDim (T : Type*) [TopologicalSpace T] : WithBot
...
-  fun ⦃_ _⦄ UltV ↦ hf.injective.image_strictMono UltV
-
 /--
 If `f : X → Y` is a closed embedding, then the Krull dimension of `X` is less than or equal
 to the Krull dimension of `Y`.
 -/
 theorem IsClosedEmbedding.topologicalKrullDim_le (f : X → Y) (hf : IsClosedEmbedding f) :
     topologicalKrullDim X ≤ topologicalKrullDim Y :=
-  krullDim_le_of_strictMono _ (IrreducibleCloseds.map_strictMono hf)
+  krullDim_le_of_strictMono _ (map_strictMono_of_isEmbedding hf.toIsEmbedding)
```
Comment (erdOne) [inline Mathlib/Topology/KrullDimension.lean]: I think we should just get rid of this, and add
```
@[deprecated (since := "2025-10-19")]
alias IsClosedEmbedding.topologicalKrullDim_le := IsEmbedding.topologicalKrullDim_le
```

File: Mathlib/Topology/Sets/Closeds.lean [hunk 16]
```diff
@@ -430,6 +433,55 @@ order isomorphism. -/
 def orderIsoSubtype' : IrreducibleCloseds α ≃o { x : Set α // IsClosed x ∧ IsIrreducible x } :=
   equivSubtype'.toOrderIso (fun _ _ h ↦ h) (fun _ _ h ↦ h)
 
+/-! ### Partial order structure on irreducible closed sets and maps thereof-/
+
+instance : PartialOrder (IrreducibleCloseds α) := inferInstance
```
Comment (erdOne) [inline Mathlib/Topology/Sets/Closeds.lean]: You can just remove this I think.

File: Mathlib/Topology/Sets/Closeds.lean [hunk 17]
```diff
@@ -430,6 +433,55 @@ order isomorphism. -/
 def orderIsoSubtype' : IrreducibleCloseds α ≃o { x : Set α // IsClosed x ∧ IsIrreducible x } :=
   equivSubtype'.toOrderIso (fun _ _ h ↦ h) (fun _ _ h ↦ h)
 
+/-! ### Partial order structure on irreducible closed sets and maps thereof-/
```
Comment (erdOne) [inline Mathlib/Topology/Sets/Closeds.lean]:
```suggestion
/-! ### Partial order structure on irreducible closed sets and maps thereof. -/
```

File: Mathlib/Topology/KrullDimension.lean (hunk 15 above)
Comment (a-dangelo) [reply Mathlib/Topology/KrullDimension.lean]: is the merge mess cleared? I made a mess because I've used the commands to commit simple changes from here, but then I forgot about it.

I will add the deprecated line.

File: Mathlib/Topology/Sets/Closeds.lean [hunk 18]
```diff
@@ -430,6 +433,55 @@ order isomorphism. -/
...
+    simp_rw [mem_preimage]
+    change f x ∈ closure (f '' B.carrier)
+    rw [← h_closures_eq]
+    exact subset_closure (mem_image_of_mem f hx_in_A),
+  fun hx_in_B => by
+    rw [← A.isClosed.closure_eq, hf.closure_eq_preimage_closure_image]
+    simp_rw [mem_preimage]
+    change f x ∈ closure (f '' A.carrier)
+    rw [h_closures_eq]
+    exact subset_closure (mem_image_of_mem f hx_in_B)⟩
```
Comment (erdOne) [inline Mathlib/Topology/Sets/Closeds.lean]: This is true for `IsInducing` as well and here's a golf:
```
lemma map_injective_of_isEmbedding {f : β → α} (hf : Topology.IsInducing f) :
    Function.Injective (map f hf.continuous) := by
  intro A B h_images_eq
  apply SetLike.coe_injective
  replace h_images_eq : closure (f '' A) = closure (f '' B) := congr($h_images_eq)
  rw [← A.isClosed.closure_eq, hf.closure_eq_preimage_closure_image, h_images_eq, 
    ← hf.closure_eq_preimage_closure_image, B.isClosed.closure_eq]
```

File: Mathlib/Topology/KrullDimension.lean (hunk 15 above)
Comment (erdOne) [reply Mathlib/Topology/KrullDimension.lean]: Yes I think it is fine now.

File: Mathlib/Topology/Sets/Closeds.lean (hunk 16 above)
Comment (a-dangelo) [reply Mathlib/Topology/Sets/Closeds.lean]: Should I remove the entire block 436-438 or should I leave line 436 (with the final dot)? I'm a bit confused by the comment below.

Comment (erdOne) [reply Mathlib/Topology/Sets/Closeds.lean]: Ah sorry this is only about the `instance` itself.

File: Mathlib/Topology/Sets/Closeds.lean (hunk 18 above)
Comment (a-dangelo) [reply Mathlib/Topology/Sets/Closeds.lean]: should the name become then *_of_isInducing?

And should I modify hypothesis everywhere from there on (also in KrullDim) to have "hf : Topology.IsInducing" or should I leave IsEmbedding in all the rest and try to fix that?

Comment (erdOne) [reply Mathlib/Topology/Sets/Closeds.lean]: Yes it should indeed be `*_of_isInducing`. And I hope `IsInducing` is also enough for the rest of the new lemmas and if so they should also take `IsInducing` instead.

File: Mathlib/Topology/Sets/Closeds.lean [hunk 19]
```diff
@@ -430,6 +433,55 @@ order isomorphism. -/
...
+/-- The map `IrreducibleCloseds.map` is strictly monotone when `f` is an embedding. -/
+lemma map_strictMono_of_isEmbedding {f : β → α} (hf : Topology.IsEmbedding f) :
+    StrictMono (map f hf.continuous) := by
+  intro A B h_less_AB
+  rw [← SetLike.coe_ssubset_coe] at h_less_AB ⊢
+  exact ⟨closure_mono (Set.image_mono (subset_of_ssubset h_less_AB)), fun h_contra_subset =>
+    (ne_of_lt (SetLike.coe_ssubset_coe.mp h_less_AB))
+    (map_injective_of_isEmbedding hf (IrreducibleCloseds.ext
+      (Subset.antisymm (closure_mono (Set.image_mono (subset_of_ssubset h_less_AB)))
+        h_contra_subset)))⟩
```
Comment (erdOne) [inline Mathlib/Topology/Sets/Closeds.lean]: I think [`Monotone.strictMono_of_injective`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/Monotone/Defs.html#Monotone.strictMono_of_injective) might make the proof easier

File: Mathlib/Topology/Sets/Closeds.lean [hunk 20]
```diff
@@ -430,6 +433,38 @@ order isomorphism. -/
...
+  intro A B h_images_eq
+  apply SetLike.coe_injective
+  replace h_images_eq : closure (f '' A) = closure (f '' B) := congr($h_images_eq)
+  rw [← A.isClosed.closure_eq, hf.closure_eq_preimage_closure_image, h_images_eq,
+    ← hf.closure_eq_preimage_closure_image, B.isClosed.closure_eq]
+
+/-- The map `IrreducibleCloseds.map` is strictly monotone when `f` is an embedding. -/
+lemma map_strictMono_of_isInducing {f : β → α} (hf : Topology.IsInducing f) :
+    StrictMono (map f hf.continuous) := by
+  exact Monotone.strictMono_of_injective
```
Comment (erdOne) [inline Mathlib/Topology/Sets/Closeds.lean]:
```suggestion
    StrictMono (map f hf.continuous) :=
 Monotone.strictMono_of_injective
```

File: Mathlib/Topology/Sets/Closeds.lean [hunk 21]
```diff
@@ -20,6 +22,7 @@ For a topological space `α`,
 
 
 open Order OrderDual Set
+open scoped Topology
```
Comment (erdOne) [inline Mathlib/Topology/Sets/Closeds.lean]: I think you can just `open Topology` and remove the `Topology.` below.

File: Mathlib/Topology/Sets/Closeds.lean [hunk 22]
```diff
@@ -430,6 +433,38 @@ order isomorphism. -/
...
+  apply SetLike.coe_injective
+  replace h_images_eq : closure (f '' A) = closure (f '' B) := congr($h_images_eq)
+  rw [← A.isClosed.closure_eq, hf.closure_eq_preimage_closure_image, h_images_eq,
+    ← hf.closure_eq_preimage_closure_image, B.isClosed.closure_eq]
+
+/-- The map `IrreducibleCloseds.map` is strictly monotone when `f` is an embedding. -/
+lemma map_strictMono_of_isInducing {f : β → α} (hf : Topology.IsInducing f) :
+    StrictMono (map f hf.continuous) :=
+  Monotone.strictMono_of_injective
+    (fun _ _ h_le => closure_mono <| Set.image_mono h_le)
```
Comment (erdOne) [inline Mathlib/Topology/Sets/Closeds.lean]: Can you move this into its own `map_mono` lemma (that doesn't require `IsInducing`?) Thanks.

File: Mathlib/Topology/KrullDimension.lean [hunk 23]
```diff
@@ -26,39 +36,29 @@ noncomputable def topologicalKrullDim (T : Type*) [TopologicalSpace T] : WithBot
...
+### Main dimension theorems -/
 
-/--
-Taking images under a closed embedding is strictly monotone on the preorder of irreducible closeds.
--/
-lemma IrreducibleCloseds.map_strictMono {f : X → Y} (hf : IsClosedEmbedding f) :
-    StrictMono (IrreducibleCloseds.map hf.continuous hf.isClosedMap) :=
-  fun ⦃_ _⦄ UltV ↦ hf.injective.image_strictMono UltV
+/-- If `f : Y → X` is an embedding, then `dim(Y) ≤ dim(X)`.
+This generalizes `IsClosedEmbedding.topologicalKrullDim_le`. -/
```
Comment (erdOne) [inline Mathlib/Topology/KrullDimension.lean]:
```suggestion
This generalizes `IsClosedEmbedding.topologicalKrullDim_le`. -/
```
This remark could be removed now because `IsClosedEmbedding.topologicalKrullDim_le` doesn't exist anymore.

File: Mathlib/Topology/KrullDimension.lean [hunk 24]
```diff
@@ -26,39 +36,29 @@ noncomputable def topologicalKrullDim (T : Type*) [TopologicalSpace T] : WithBot
...
+/-!
+### Main dimension theorems -/
 
-/--
-Taking images under a closed embedding is strictly monotone on the preorder of irreducible closeds.
--/
-lemma IrreducibleCloseds.map_strictMono {f : X → Y} (hf : IsClosedEmbedding f) :
-    StrictMono (IrreducibleCloseds.map hf.continuous hf.isClosedMap) :=
-  fun ⦃_ _⦄ UltV ↦ hf.injective.image_strictMono UltV
+/-- If `f : Y → X` is an embedding, then `dim(Y) ≤ dim(X)`.
```
Comment (erdOne) [inline Mathlib/Topology/KrullDimension.lean]:
```suggestion
/-- If `f : Y → X` is inducing, then `dim(Y) ≤ dim(X)`.
```

File: Mathlib/Topology/Sets/Closeds.lean [hunk 25]
```diff
@@ -5,6 +5,8 @@ Authors: Floris van Doorn, Yaël Dillies
 -/
 import Mathlib.Topology.Sets.Opens
 import Mathlib.Topology.Clopen
+import Mathlib.Topology.Constructions
+import Mathlib.Topology.Defs.Induced
```
Comment (erdOne) [inline Mathlib/Topology/Sets/Closeds.lean]:
```suggestion
import Mathlib.Topology.Sets.Opens
import Mathlib.Topology.Clopen
```
I think these are already transitively imported.

**Review by erdOne — APPROVED** [review]
Thanks for the great PR and for the patience! 
maintainer delegate

File: Mathlib/Topology/Sets/Closeds.lean (hunk 25 above)
Comment (a-dangelo) [reply Mathlib/Topology/Sets/Closeds.lean]: Thanks for your patience as well!

**Comment by a-dangelo** [comment]
I've done 'lake build Mathlib' and everything works fine in my fork. Why did the CI test fail? it seems the cache of the files I've modified is missing.

**Comment by erdOne** [comment]
Can you try merging master? It might be an issue about a change in CI.

**Comment by riccardobrasca** [comment]
Can you please make the PR description shorter, like one or two sentences? There is no need to explain everything that happened in the review process (currently the description is longer than the PR itself...).
